* C:\Projects\circuits_rf\diode_ring_modulator\diode_ring_modulator_2.asc
L1 0 RFIn 0.9m
L2 0 P001 2m
L3 P002 0 2m
D1 N003 P001 1N5817
D3 P002 N003 1N5817
D4 N002 P002 1N5817
L4 BaseBand N002 0.9m
L5 N003 BaseBand 0.9m
L6 0 Out 1.2m
V1 RFIn 0 SINE(0 5 100e3) Rser=0.05
V2 BaseBand 0 SINE(0 0.1 1e3) Rser=0.05
R1 Out 0 50
D2 P001 N002 1N5817
.model D D
.lib C:\Users\markd\Documents\LTspiceXVII\lib\cmp\standard.dio
K2 L4 L5 L6 0.98
K1 L1 L2 L3 0.98
.tran 5m startup
* This is from: https://www.youtube.com/watch?v=KBq0sblnHWs
.backanno
.end
