* C:\Projects\circuits_rf\ssb\audio_amp_mic.asc
Q1 N003 N006 N007 0 2N3904
V1 N005 0 SINE(0 0.01 1000) AC 1 Rser=0
V2 N001 0 12
C1 N006 N005 47µ
C2 N004 N003 47µ
R1 N007 0 50
R2 N002 N006 20e3
R3 N006 0 3e3
R4 N002 N003 620
R5 N004 0 1e4
C3 N007 0 470µ
R6 N001 N002 100
R7 N004 0 50
.model NPN NPN
.model PNP PNP
.lib C:\Users\markd\Documents\LTspiceXVII\lib\cmp\standard.bjt
;tran 0 5e-3 0.1e-3 0.5e-3
.ac oct 1000 300 5000
.backanno
.end
