* C:\Projects\circuits_rf\ssb\emitter_follower_mic_audio.asc
Q1 N001 N003 N004 0 2N3904
R1 N004 0 150
R2 N001 N003 1e4
R3 N003 0 1e4
C1 N003 N002 2e-6
C2 N005 N004 2e-5
V1 N002 0 SINE(0 0.5 1e3) AC 1
V2 N001 0 12 Rser=0.1
R4 N005 0 375
L1 N006 0 3e-6
R5 N006 N005 50
.model NPN NPN
.model PNP PNP
.lib C:\Users\markd\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 10e-3 0.01e-3 1e-3
;ac oct 1000 300 5000
.backanno
.end
